US08124606B2
Compound 1B: (S)-methyl 6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine-3-carboxylate:
(S)-Methyl 6-(2-(methoxycarbonyl)pyrrolidin-1-yl)-5-nitronicotinate (1.45 g, 46.9 mmol) and triphenyl phosphite (5.00 mg, 0.0161 mmol) were dissolved in dichloromethane (12 mL). Ammonium metavanadate (50 mg, 0.427 mmol) and Pt/C (5% wt., 200 mg) were added and the reaction mixture was stirred under hydrogen (80 psi) for 5 h. The reaction mixture was filtered through a small plug of celite and the precipitate was washed multiple times with hot dichloromethane until it was free from white precipitate. The filtrate was concentrated in vacuo and crystallized with ethyl ether (15 mL). The resulting solid was filtered off and dried in vacuum to afford the title compound as an off-white solid (0.930 g, 80%). [M+H] calc'd for C12H13N3O3, 248; found, 248.

reactant | (S)-Methyl 6-(2-(methoxycarbonyl)pyrrolidin-1-yl)-5-nitronicotinate | 46.9 mmol, 1.45 g | COC(=O)[C@H]1N(CCC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C13H15N3O6
reactant | triphenyl phosphite | 0.0161 mmol, 5.00 mg | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
catalyst | Ammonium metavanadate | 0.427 mmol, 50 mg | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 200 mg | [Pt] | Pt
product | (S)-methyl 6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine-3-carboxylate | 0.930 g, 80% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCC2 | C12H13N3O3
